US04876346
(C) N-[2-Hydroxy-2-[3(2-quinolinylmethoxy)phenyl]ethyl]-2-pyridine carboxamide
A solution of 3.9 g (0.01 mol) of 4,5-dihydro-5-[3-[(2-quinolinyl)methoxy]phenyl]-2-(2-pyridyl)-1,3-oxazole in 100 ml of acetonitrile, 10 ml of water, and 1 ml of concentrated hydrochloric acid is heated on a steam bath for 5 hours. The solvents are evaporated and the residue is dissolved in a mixture of aqueous sodium bicarbonate and ethyl acetate. The ethyl acetate solution is separated and washed with dilute aqueous sodium chloride solution. The ethyl acetate solution is dried over anhydrous magnesium sulfate, filtered, and evaporated. The residue is dissolved in hot ethyl acetate and the solution is distilled with hexane to obtain crystals (2.2 g), m.p. 126°-129° C.

reactant | 4,5-dihydro-5-[3-[(2-quinolinyl)methoxy]phenyl]-2-(2-pyridyl)-1,3-oxazole | 0.01 mol, 3.9 g | N1=C(C=CC2=CC=CC=C12)COC=1C=C(C=CC1)C1CN=C(O1)C1=NC=CC=C1 | C24H19N3O2
reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | water | 10 ml | O | H2O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | N-[2-Hydroxy-2-[3(2-quinolinylmethoxy)phenyl]ethyl]-2-pyridine carboxamide | 2.2 g | OC(CNC(=O)C1=NC=CC=C1)C1=CC(=CC=C1)OCC1=NC2=CC=CC=C2C=C1 | C24H21N3O3
